US04209621
2-Methylthio-4-phenylpyrimidine
A solution of 3.5 g. of 2-mercapto-4-phenylpyrimidine in 50 ml. of 1 N sodium hydroxide is cooled to near 0° C. and 2.94 g. of methyl iodide is added. After stirring at room temperature for 2 hours, the product is recovered by filtration. Recrystallization from methylene chloride-hexane affords the desired compound, m.p. 87°-89° C.

reactant | 2-mercapto-4-phenylpyrimidine | SC1=NC=CC(=N1)C1=CC=CC=C1 | C10H8N2S
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | methyl iodide | CI | CH3I
product | 2-Methylthio-4-phenylpyrimidine | CSC1=NC=CC(=N1)C1=CC=CC=C1 | C11H10N2S
